US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 2-(4-methylpiperazin-1-yl)ethanamine to give (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid {2-methoxy-4-[2-(4-methyl-piperazin-1-yl)-ethylcarbamoyl]-phenyl}-amide, hydrochloride. MS (ES+) m/z calcd. for C38H45Cl2F2N6O3: [(M+H)+]: 741. found: 741.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 2-(4-methylpiperazin-1-yl)ethanamine | CN1CCN(CC1)CCN | C7H17N3
product | (2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carboxylic acid {2-methoxy-4-[2-(4-methyl-piperazin-1-yl)-ethylcarbamoyl]-phenyl}-amide, hydrochloride | Cl.COC1=C(C=CC(=C1)C(NCCN1CCN(CC1)C)=O)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C | InChI=1S/C38H44Cl2F2N6O3.ClH/c1-37(2,3)21-31-38(22-43,26-11-10-24(39)20-28(26)41)32(25-7-6-8-27(40)33(25)42)34(46-31)36(50)45-29-12-9-23(19-30(29)51-5)35(49)44-13-14-48-17-15-47(4)16-18-48;/h6-12,19-20,31-32,34,46H,13-18,21H2,1-5H3,(H,44,49)(H,45,50);1H/t31-,32-,34+,38-;/m0./s1
